US05536716
Step A: Spiro[3H-2-benzopyran-3,4'-piperidin]-1(4H)-one
To a suspension of 10% palladium on carbon (5 mg) in ethanol (5 mL) was added of 1'-benzylspiro[3H-2-benzopyran-3,4' -piperidine]-1(4H)-one (20 mg, 0.058 mmol). (Hashigaki et al Chem. Pharm. Bull. 32 pg 3561-3568 (1984)). Hydrogenation was performed at 1 atmosphere pressure at room temperature. The reaction was stirred for 2 hours under hydrogen atmosphere, until TLC analysis indicated that the reaction was complete. The catalyst was removed by vacuum filtration through celite 545 and the filtrate was concentrated to give the desired product (12.4 mg, 98.5%).

reactant | 1'-benzylspiro[3H-2-benzopyran-3,4' -piperidine]-1(4H)-one | 0.058 mmol, 20 mg | C(C1=CC=CC=C1)N1CCC2(CC1)OC(C1=C(C2)C=CC=C1)=O | C20H21NO2
catalyst | palladium on carbon | 5 mg | [Pd] | Pd
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | Spiro[3H-2-benzopyran-3,4'-piperidin]-1(4H)-one | 12.4 mg, 98.5% | N1CCC2(CC1)OC(C1=C(C2)C=CC=C1)=O | C13H15NO2
